US08748443B2
N-(3-tert-butyl-4-methoxy-5-(6-(methylsulfonamido)naphthalen-2-yl)phenyl)acetamide
N-(3-bromo-5-tert-butyl-4-methoxyphenyl)acetamide (24 mg, 0.08 mmol) and N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalene-2-yl)methanesulfonamide (64 mg, 0.18 mmol), were reacted in the same manner as Example 43 Part C, heating in an oil bath at 90° C. for 18 hours to give crude product which was purified on an Isco 4 g silica cartridge eluting with 5% methanol/chloroform to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.39 (s, 9 H), 2.02 (s, 3 H), 3.06 (s, 3 H), 3.16 (s, 3 H), 7.34-7.76 (m, 5 H), 7.84-8.00 (m, 3 H), 9.91 (s, 1 H).

reactant | N-(3-bromo-5-tert-butyl-4-methoxyphenyl)acetamide | 0.08 mmol, 24 mg | BrC=1C=C(C=C(C1OC)C(C)(C)C)NC(C)=O | C13H18BrNO2
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalene-2-yl)methanesulfonamide | 0.18 mmol, 64 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C)C | C17H22BNO4S
product | N-(3-tert-butyl-4-methoxy-5-(6-(methylsulfonamido)naphthalen-2-yl)phenyl)acetamide | C(C)(C)(C)C=1C=C(C=C(C1OC)C1=CC2=CC=C(C=C2C=C1)NS(=O)(=O)C)NC(C)=O | C24H28N2O4S
